US08044213B2
A mixture of 0.037 g (0.1 mmole) of 4-(3-chloro-phenyl)-2-(6-hydroxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide (I.25d), 0.5 mL of dimethylformamide, 0.069 g (0.5 mmole) of potassium carbonate, 0.001 g of potassium iodide and 0.012 mL (0.15 mmole) of 2-chloromethyl-oxirane was heated at 100 degrees for 3 hours. The mixture was concentrated under reduced pressure, diluted with 20 mL of water and the resulting precipitate collected by filtration. The solid was triturated with diethyl ether to give 0.032 g of 4-(3-chloro-phenyl)-2-(6-oxiranylmethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide (I.39a) as a white solid.

reactant | 4-(3-chloro-phenyl)-2-(6-hydroxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide | 0.1 mmole, 0.037 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)O | C17H11ClN4O2S
reactant | potassium carbonate | 0.5 mmole, 0.069 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloromethyl-oxirane | 0.15 mmole, 0.012 mL | ClCC1OC1 | C3H5ClO
catalyst | potassium iodide | 0.001 g | [I-].[K+]
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloro-phenyl)-2-(6-oxiranylmethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide | 0.032 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)OCC2OC2 | C20H15ClN4O3S
